US07214802B2
N-(5-tert-Butyl-3-methanesulfonylamino-2-methoxy-phenyl)-3-{4-[2-(1-hydroxy-1-methyl-ethyl)-3-methyl-3H-imidazol-4-yl]-[1,2,3]triazol-1-yl}-4-methyl-benzamide
Example 27 was prepared from 3-azido-N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-benzamide and 2-(5-ethynyl-1-methyl-1H-imidazol-2-yl)-propan-2-ol in the same manner as Example 15. ESI MS m/z 596 [C29H37N7O5S+H]+.

reactant | 3-azido-N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-benzamide | N(=[N+]=[N-])C=1C=C(C(=O)NC2=C(C(=CC(=C2)C(C)(C)C)NS(=O)(=O)C)OC)C=CC1C | C20H25N5O4S
reactant | 2-(5-ethynyl-1-methyl-1H-imidazol-2-yl)-propan-2-ol | C(#C)C1=CN=C(N1C)C(C)(C)O | C9H12N2O
product | N-(5-tert-Butyl-3-methanesulfonylamino-2-methoxy-phenyl)-3-{4-[2-(1-hydroxy-1-methyl-ethyl)-3-methyl-3H-imidazol-4-yl]-[1,2,3]triazol-1-yl}-4-methyl-benzamide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(C1=CC(=C(C=C1)C)N1N=NC(=C1)C=1N(C(=NC1)C(C)(C)O)C)=O)OC)NS(=O)(=O)C | C29H37N7O5S
